US06777428B1
To a suspension of 2.8 g (8.48 mol) of 4-(3-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine, 4-(2-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine, and 4-(4-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine mixture (62:33:5) in isopropanol (60 mL) was added HCl 37% (10 mL). The reaction mixture was refluxed for 8 h and rapidly a complete dissolution was observed. Then, the solution was allowed to cool to room temperature and post-agitated for 4 h. The precipitate was filtered, rinsed with isopropanol (2×5 mL) and ethyl ether (5 mL). Drying under vacuum at 50° C. afforded pure 4-(3-nitrobenzoyl)piperidine HCl (956 mg, 42%).

reactant | 4-(3-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine | 8.48 mol, 2.8 g | [N+](=O)([O-])C=1C=C(C(=O)C2CCN(CC2)C(=O)C(F)(F)F)C=CC1 | C14H13F3N2O4
reactant | 4-(2-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine | [N+](=O)([O-])C1=C(C(=O)C2CCN(CC2)C(=O)C(F)(F)F)C=CC=C1 | C14H13F3N2O4
reactant | 4-(4-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine | [N+](=O)([O-])C1=CC=C(C(=O)C2CCN(CC2)C(=O)C(F)(F)F)C=C1 | C14H13F3N2O4
reactant | HCl | 10 mL | Cl | ClH
solvent | isopropanol | 60 mL | C(C)(C)O | C3H8O
product | 4-(3-nitrobenzoyl)piperidine HCl | 956 mg, 42% | Cl.[N+](=O)([O-])C=1C=C(C(=O)C2CCNCC2)C=CC1 | InChI=1S/C12H14N2O3.ClH/c15-12(9-4-6-13-7-5-9)10-2-1-3-11(8-10)14(16)17;/h1-3,8-9,13H,4-7H2;1H
